US06531491B1
A mixture of 6-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole (5.78 g, 13.56 mmol, 1.00 equiv) and 3-methoxy-4-(methoxymethoxy)benzene-boronic acid (3.45 g, 16.27 mmol, 1.20 equiv) under argon was dissolved in dioxane (15 mL) and water (2.0 mL). To this solution was added triethylamine (2.83 mL, 20.3 mmol, 1.5 equiv), potassium carbonate (2.8 g, 20.3 mmol, 1.5 equiv) and dichlorobis(triphenylphosphine)palladium (476 mg, 0.678 mmol, 0.05 equiv). The reaction mixture was heated to 90° C. for 2 h and then was cooled to 23° C. The mixture was separated between ethyl acetate (250 mL) and saturated sodium bicarbonate (150 mL). The organic material was dried over sodium sulfate, decanted and concentrated under reduced pressure to give crude 6-(3-methoxy-4-methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole that was dried under high vacuum for 15 h and was used without further purification.

reactant | 6-iodo-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | 13.56 mmol, 5.78 g, 1.00 equiv | IC1=CC=C2C=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C16H15IN2O2S
reactant | 3-methoxy-4-(methoxymethoxy)benzene-boronic acid | 16.27 mmol, 3.45 g, 1.20 equiv | COC=1C=C(C=CC1OCOC)B(O)O | C9H13BO5
reactant | triethylamine | 20.3 mmol, 2.83 mL, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 20.3 mmol, 2.8 g, 1.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.0 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.678 mmol, 476 mg, 0.05 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(3-methoxy-4-methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole | COC=1C=C(C=CC1OCOC)C1=CC=C2C=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C25H26N2O5S
